US05688943
46A 1-Methylcyclopentane carboxylic acid
Cyclohexene (25 ml, 0.246 mol) was treated with conc. sulphuric acid (100 ml) and formic acid (18.9 ml, 0.5 mol) at 5° C. for two hours. The mixture was poured onto ice and extracted twice with EtOAc. The organic extracts were washed with brine, then extracted with 2M KOH. The basic extract was acidified with 2M HCl and extracted with CHCl3, filtered (Whatman® 1 PS phase separator) and evaporated. The resultant brown oil was purified by bulb-to-bulb distillation (125° C./oil pump) to give the title compound as a colourless oil (860 mg, 2%).

reactant | Cyclohexene | 0.246 mol, 25 ml | C1=CCCCC1 | C6H10
reactant | formic acid | 0.5 mol, 18.9 ml | C(=O)O | CH2O2
solvent | sulphuric acid | 100 ml | S(O)(O)(=O)=O | H2O4S
product | 1-Methylcyclopentane carboxylic acid | 860 mg, 2% | CC1(CCCC1)C(=O)O | C7H12O2
